US09169254B2
Potassium t-butoxide (1.01 g, 8.97 mmol) was added to a solution of 4-carbamoyl-4-(3-chloro-2-fluoro-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.20 g, 2.99 mmol) in tBuOH (30.0 ml) at room temperature, and the mixture was stirred at 40° C. for six hours. The reaction mixture was adjusted to pH 6 by adding 2 N HCl and then extracted with AcOEt three times. The organic layers were sequentially washed with H2O (×2) and saturated brine, and then dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography (hexane/AcOEt=90:10→50:50) to give 2-(3-chloro-2-fluoro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester as a colorless form (1.13 g, 99%).

reactant | Potassium t-butoxide | 8.97 mmol, 1.01 g | CC(C)([O-])C.[K+]
reactant | 4-carbamoyl-4-(3-chloro-2-fluoro-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.99 mmol, 1.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(C1=C(C(=CC=C1)Cl)F)=O)C(N)=O | C18H23ClFN3O4
reactant | HCl | 2 N | Cl | ClH
solvent | tBuOH | 30.0 ml | CC(C)(C)O | C4H10O
product | 2-(3-chloro-2-fluoro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(C(NC(=N2)C2=C(C(=CC=C2)Cl)F)=O)CC1 | C18H21ClFN3O3
